US08937092B2
To a stirred solution of ethyl 2-(4-(methylsulfonamidomethyl)phenyl)propanoate (325 mg, 1.139 mmol) in co-solvent with tetrahydrofuran and water (1:1) were added sodium hydroxide (114 mg, 2.8475 mmol). The reaction mixture was refluxed for 16 h, then cooled to room temperature, acidified to pH 3-4 with acetic acid. The residue dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give 2-(4-(methylsulfonamidomethyl)phenyl)propanoic acid (74 mg, 25%).

reactant | ethyl 2-(4-(methylsulfonamidomethyl)phenyl)propanoate | 1.139 mmol, 325 mg | CS(=O)(=O)NCC1=CC=C(C=C1)C(C(=O)OCC)C | C13H19NO4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | sodium hydroxide | 2.8475 mmol, 114 mg | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-(methylsulfonamidomethyl)phenyl)propanoic acid | 74 mg, 25% | CS(=O)(=O)NCC1=CC=C(C=C1)C(C(=O)O)C | C11H15NO4S
